US07179819B2
A mixture of pentafluorophenyl 3-methoxy4-[N′-(2-methylphenyl)ureido]phenylacetate (351.7 mg, 0.732 mmol), methyl 2-[(2-pyrrolidinyl)methoxy]pyridine-5-carboxylate (173.0 mg, 0.732 mmol), Et3 N (122.4 μl, 0.878 mmol) in DMF (5.2 mL) was stirred for 1 hr at room temp. The mixture was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure and the residue was chromatographed on silica-gel with n-hexane:EtOAc (1:5, v/v) as eluent to afford methyl 2-[[1-[3-methoxy-4-[N′-(2-methylphenyl) ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate (338.4 mg, 87%) as an oil. To a stirred solution of this compound in THF (5.6 mL) and H2O (1.4 mL) was added LiOH (45.7 mg, 1.91 mmol), and the reaction mixture was stirred at room temp overnight. The mixture was diluted with CHCl3, and treated with sat. NH4Cl, washed with brine, dried over Na2SO4. The solvent was removed under a reduced pressure, and the obtained crude solid was recrystallized from n-hexane-Et2O—CHCl3-MeOH to afford 193.8 mg (59%) 40 as a white crystalline powder. mp 125–128; IR (KBr) 1716, 1600, 1533, 1255 cm−1; 1H-NMR (400 MHz, DMSO-d6) δ 1.67–2.03 (m, 4H), 2.50 (s, 3H), 3.33–3.42 (m, 1H), 3.52 (m, 2H), 3.58 (d, J=4.4 Hz, 1H), 3.83 (s, 3H), 4.27–4.31 (m, 2H), 4.42–4.47 (m, 1H), 6.73 (d, J=7.8 Hz, 1H), 6.87–6.95 (m, 3H), 7.11–7.17 (m, 2H), 7.79 (d, J=8.3 Hz, 1H), 7.99 (d, J=8.3 Hz, 1H), 8.14 (dd, J=2.0, 8.8 Hz, 1H), 8.46 (s, 1H), 8.56 (s, 1H), 8.69 (d, J=2.0 Hz, 1H), 13.06 (br s, 1H); MS (FAB) m/z 519 (M++1); Anal. Calcd for C28H30N4O6.1/2H2O: C, 63.75; H, 5.92; N, 10.62. Found: C, 63.61; H, 5.94; N, 10.27.

reactant | pentafluorophenyl 3-methoxy4-[N′-(2-methylphenyl)ureido]phenylacetate | 0.732 mmol, 351.7 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | methyl 2-[(2-pyrrolidinyl)methoxy]pyridine-5-carboxylate | 0.732 mmol, 173.0 mg | N1C(CCC1)COC1=NC=C(C=C1)C(=O)OC | C12H16N2O3
solvent | DMF | 5.2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-[[1-[3-methoxy-4-[N′-(2-methylphenyl) ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate | 338.4 mg, 87% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1C(CCC1)COC1=NC=C(C=C1)C(=O)OC | C29H32N4O6
